US04127660
6-Hydroxy-3-methyl-6-phenyl-3,4,6,7-tetrahydro-2H-thiazolo[3,2-a]-s-triazine
A solution of 5.0 grams (0.025 moles) of phenacylbromide in 40 milliliters of acetone was mixed with a solution of 3.27 grams (0.025 moles) of 3,4,5,6-tetrahydro-5-methyl-s-triazin 2(1H)thione in 450 milliliters of acetone. 6-Hydroxy-3-methyl-6-phenyl-3,4,6,7-tetrahydro-2H-thiazolo[3,2-a]-s-triazine hydrobromide crystallized out as a colourless solid, m.p. 149°-150° C. (decomposition). The yield was 7.35 grams (89%).

reactant | phenacylbromide | 0.025 moles, 5.0 grams | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | 3,4,5,6-tetrahydro-5-methyl-s-triazin 2(1H)thione | 0.025 moles, 3.27 grams | CN1CNC(NC1)=S | C4H9N3S
solvent | acetone | 40 milliliters | CC(=O)C | C3H6O
solvent | acetone | 450 milliliters | CC(=O)C | C3H6O
product | 6-Hydroxy-3-methyl-6-phenyl-3,4,6,7-tetrahydro-2H-thiazolo[3,2-a]-s-triazine | OC1(CSC=2N1CN(CN2)C)C2=CC=CC=C2 | C12H15N3OS
